US07741355B2
[2-(5-Methoxy-2-nitrophenylamino)-ethyl]-carbamic acid tert-butyl ester
A 2 L flask equipped with a stir bar was charged with DMSO (800 mL), K2CO3 (161 g, 1.6 mol) and 4-methoxy-2-fluoro-1-nitrobenzene (10 g, 0.58 mol). Mono-N-Boc-1,2-diaminoethane (94 g, 0.55 mol) was added to the reaction mixture and stirred for 12 h at 60° C. The reaction mixture was triturated with ice cold water (1.2 L) and the resulting yellow precipitate was collected by vacuum filtration. The precipitate washed several times with water (5×1 L) and dried on a high vacuum for 48 h to give the desired product as a bright yellow solid (178 g, 98%.)

reactant | K2CO3 | 1.6 mol, 161 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxy-2-fluoro-1-nitrobenzene | 0.58 mol, 10 g | COC1=CC(=C(C=C1)[N+](=O)[O-])F | C7H6FNO3
reactant | Mono-N-Boc-1,2-diaminoethane | 0.55 mol, 94 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
solvent | DMSO | 800 mL | CS(=O)C | C2H6OS
product | [2-(5-Methoxy-2-nitrophenylamino)-ethyl]-carbamic acid tert-butyl ester | 178 g, 98% | C(C)(C)(C)OC(NCCNC1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C14H21N3O5
